US08461328B2
Fmoc-beta-Alanine (3.1 g, 9.90 mmol), HATU (3.8 g, 9.90 mmol), and diisopropylethylamine (2.1 ml, 12.0 mmol) were added sequentially to a solution of 3-[4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidin-1-yl]-propionitrile (4.2 g, 9.90 mmol) in DMF (100 ml) at 25° C. The reaction mixture was stirred for 14 h at 25° C., then was concentrated under reduced pressure. The residue was partitioned between half-saturated NaHCO3 (200 ml) and EtOAc (2×200 ml). the combined organic layers were dried over Mg2SO4, filtered, and the filtrate was concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (gradient: 0 to 7% CH3OH in CH2Cl2) afforded (2-{1-benzenesulfonyl-4-[1-(2-cyano-ethyl)-piperidin-4-ylamino]-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamoyl}-ethyl)-carbamic acid 9H-fluoren-9-ylmethyl ester (6.89 g, 97%) as a white foam. LCMS (Method G, ESI): RT=0.85 min, m+H=718.5. 1H NMR (400 MHz, CDCl3, mixture of rotamers) δ 8.14 (t, J=10.3 Hz), 7.84 (s), 7.75 (dd, J=15.2, 7.5 Hz), 7.60-7.54 (m), 7.50 (d, J=4.1 Hz), 7.44 (t, J=7.8 Hz), 7.37 (t, J=7.4 Hz), 7.28 (t, J=5.8 Hz), 6.52 (t, J=4.7 Hz), 5.50 (d, J=11.4 Hz), 4.70 (s), 4.40 (s), 4.33 (d, J=7.1 Hz), 4.19 (t, J=6.6 Hz), 3.64 (td, J=13.3, 6.7 Hz), 3.51 (d, J=21.9 Hz), 3.39 (d, J=5.4 Hz), 2.80-2.47 (m), 2.35 (s), 2.30-2.07 (m), 1.93 (d, J=12.0 Hz), 1.51 (dt, J=13.5, 6.8 Hz).

reactant | Fmoc-beta-Alanine | 9.90 mmol, 3.1 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCC(=O)O | C18H17NO4
reactant | HATU | 9.90 mmol, 3.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 12.0 mmol, 2.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-[4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidin-1-yl]-propionitrile | 9.90 mmol, 4.2 g | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2CCN(CC2)CCC#N | C21H24N6O2S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (2-{1-benzenesulfonyl-4-[1-(2-cyano-ethyl)-piperidin-4-ylamino]-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamoyl}-ethyl)-carbamic acid 9H-fluoren-9-ylmethyl ester | 6.89 g, 97% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCC(NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC2CCN(CC2)CCC#N)=O)=O | C39H39N7O5S
